US04888332
Preparation of 7-chloro-5-ethoxycarbonyl-s-triazolo[1,5-a]pyrimidine
A suspension of 5-ethoxycarbonyl-7-hydroxy-s-triazolo[1,5-a]pyrimidine (6.8 g) in 40 ml of phosphorus oxychloride was heated at 60° C. with stirring, the resultant clear, orange solution was further refluxed for one hour, excess phosphorus oxychloride was distilled off, the brown residue was dissolved in 100 ml of chloroform, and the solution was slowly added to 100 ml of water with stirring. The chloroform solution was separated, dried over anhydrous sodium sulfate, the solvent was removed by distillation under reduced pressure, and the residue was purified by silica gel chromatography, affording 4.6 g of the objective compound as colorless crystals.

reactant | 5-ethoxycarbonyl-7-hydroxy-s-triazolo[1,5-a]pyrimidine | 6.8 g | C(C)OC(=O)C1=NC=2N(C(=C1)O)N=CN2 | C8H8N4O3
reactant | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-5-ethoxycarbonyl-s-triazolo[1,5-a]pyrimidine | 4.6 g | ClC1=CC(=NC=2N1N=CN2)C(=O)OCC | C8H7ClN4O2
